US08541576B2
To a solution of tert-butyl 4-[(3-carbamoyl-8-iodo-4,5-dihydro-1H-pyrazolo[4,3-h]quinazolin-1-yl)methyl]piperidine-1-carboxylate (30 mg, 0.036 mmol) in 3 ml of 1,4-dioxane and 1 ml of water, under argon atmosphere, 17.6 mg (0.11 mmol) of 2,6-difluorophenylboronic acid 13.7 mg (0.017 mmol) of 1,1′-bis(diphenylphosphino)ferrocenepalladium complex with dichloromethane and 54 mg (0.167 mmol) of cesium carbonate, were successively added. The mixture was submitted to microwave irradiation at 80° for 1 hour in a sealed vial. The reaction was filtered through a celite pad and the solvent evaporated to dryness. The crude was then portioned between ethyl acetate and water, the organic layer dried over sodium sulphate and the solvent removed in vacuo. After purification by flash chromatography on silica gel column (DCM/EtOAc 7/3), 20 mg (70%) of tert-butyl 4-{[3-carbamoyl-8-(2,6-difluorophenyl)-4,5-dihydro-1H-pyrazolo[4,3-h]quinazolin-1-yl]methyl}piperidine-1-carboxylate were obtained. The product was dissolved in DCM (2 ml) and 4M HCl in 1,4-dioxane (2 ml) was added. The reaction was stirred at room temperature for 1 hour, the solvent was evaporated to dryness. The solid was treated with ethyl ether and the precipitate collected by filtration to give the title compound as a pale yellow solid 17 mg (85%). LC/MS (254 nm) HPLC method 2 Rt 4.14 min. 1H NMR (401 MHz, DMSO-d6) δ 8.89 (s, 1H), 8.57 (d, J=9.76 Hz, 1H), 8.30 (d, J=10.01 Hz, 1H), 7.55-7.69 (m, 1H), 7.45 (s, 1H), 7.37 (s, 1H), 7.23-7.33 (m, 2H), 4.57-4.66 (m, 2H), 3.16-3.26 (m, 2H), 3.01-3.14 (m, 4H), 2.69-2.85 (m, J=10.74 Hz, 2H), 2.09-2.29 (m, J=7.20 Hz, 1H), 1.56-1.70 (m, J=12.94 Hz, 2H), 1.32-1.48 (m, 2H) HRMS (ESI) calcd for C21H27IN6O3 [M+H]+ 425.1896 found 425.1896

reactant | tert-butyl 4-[(3-carbamoyl-8-iodo-4,5-dihydro-1H-pyrazolo[4,3-h]quinazolin-1-yl)methyl]piperidine-1-carboxylate | 0.036 mmol, 30 mg | C(N)(=O)C1=NN(C2=C1CCC=1C=NC(=NC21)I)CC2CCN(CC2)C(=O)OC(C)(C)C | C21H27IN6O3
reactant | 2,6-difluorophenylboronic acid | 0.11 mmol, 17.6 mg | FC1=C(C(=CC=C1)F)B(O)O | C6H5BF2O2
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | cesium carbonate | 0.167 mmol, 54 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | water | 1 ml | O | H2O
product | tert-butyl 4-{[3-carbamoyl-8-(2,6-difluorophenyl)-4,5-dihydro-1H-pyrazolo[4,3-h]quinazolin-1-yl]methyl}piperidine-1-carboxylate | 20 mg, 70% | C(N)(=O)C1=NN(C2=C1CCC=1C=NC(=NC21)C2=C(C=CC=C2F)F)CC2CCN(CC2)C(=O)OC(C)(C)C | C27H30F2N6O3
